US08211904B2
Step 3: [3-(1-cyclopropylethyl)phenyl]methanol
To a solution of methyl 3-(1-cyclopropylethyl)benzoate (0.917 g, 4.48 mmol) in THF (50 mL) was added lithium aluminum hydride (1.0 M in THF, 13.5 mL, 13.5 mmol). After stirring at rt for 15 min the reaction was cooled and quenched with water, extracted into ethyl acetate (three times) and concentrated under vacuum. Purification by silica gel chromatography (30% EtOAc/hexanes) afforded the desired product.

reactant | methyl 3-(1-cyclopropylethyl)benzoate | 4.48 mmol, 0.917 g | C1(CC1)C(C)C=1C=C(C(=O)OC)C=CC1 | C13H16O2
reactant | lithium aluminum hydride | 13.5 mmol, 1.0 M, 13.5 mL | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | [3-(1-cyclopropylethyl)phenyl]methanol | C1(CC1)C(C)C=1C=C(C=CC1)CO | C12H16O
